US08791267B2
Synthesis of 2-{[5-(3′-Chloro-6-difluoromethoxy-biphenyl-3-ylmethyl)-pyridin-2-yl]-methyl-amino}-acetamide (P-621).
In an 8 mL vial equipped with a stir bar was placed 5-(3′-Chloro-6-difluoromethoxy-biphenyl-3-ylmethyl)-2-fluoro-pyridine (I-153, 210 mg, 0.577 mmol), 2-methylamino-acetamide hydrochloride (216 mg, 1.73 mmol) and 1,8-diazabicyclo[5.4.0]undec-7-ene (488 uL, 3.46 mmol). The mixture was heated to 160° C. for 3 hours and then diluted with dichloromethane (5 mL). The organic portion was washed with 0.5M HCl (3 mL) and the aqueous washes were combined and extracted with dichloromethane (2×3 mL). The organic portions were combined, washed with brine (4 mL), dried (MgSO4) and concentrated. The crude material was purified by Teledyne CombiFlash system utilizing a 12 g RediSepRf silica gel cartridge and a gradient elution of 0-30% methanol/dichloromethane, followed by preparative TLC (20×20 cm, 1000 microns) using 5% methanol/dichloromethane as the eluent to produce 8 mg of P-621?? as a dark brown semi-solid in 3% yield. 1H NMR (400 MHz, DMSO-d6) δ 2.98 (s, 3H), 3.83 (s, 2H), 4.03 (s, 2H), 6.53 (d, J=9 Hz, 1H), 7.10 (t, J=74 Hz, 1H), 7.21 (d, J=8 Hz, 1H), 7.30 (dd, J=8, 2 Hz, 1H), 7.36 (d, J=2 Hz, 1H), 7.40-7.50 (m, 5H), 8.01 (d, J=2 Hz, 1H) ppm. MS (APCI+): 432.1 (M+1). LC/MS: 86%.

reactant | 5-(3′-Chloro-6-difluoromethoxy-biphenyl-3-ylmethyl)-2-fluoro-pyridine | 0.577 mmol, 210 mg | ClC=1C=C(C=CC1)C1=CC(=CC=C1OC(F)F)CC=1C=CC(=NC1)F | C19H13ClF3NO
reactant | 2-methylamino-acetamide hydrochloride | 1.73 mmol, 216 mg | Cl.CNCC(=O)N
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 3.46 mmol, 488 uL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 2-{[5-(3′-Chloro-6-difluoromethoxy-biphenyl-3-ylmethyl)-pyridin-2-yl]-methyl-amino}-acetamide | 3% yield | ClC=1C=C(C=CC1)C1=CC(=CC=C1OC(F)F)CC=1C=CC(=NC1)N(CC(=O)N)C | C22H20ClF2N3O2
